US08877782B2
N-Isopropyl-6-(5-methyl-3-m-tolyl-isoxazol-4-ylmethoxy)-nicotinamide
As described for example 249f, 6-(5-methyl-3-m-tolyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester (200 mg, 0.6 mmol) was converted, using isopropylamine instead of 4-aminotetrahydropyran, to the title compound (160 mg, 74%) which was obtained as a white solid. MS: m/e=366.1 [M+H]+.

reactant | 6-(5-methyl-3-m-tolyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester | 0.6 mmol, 200 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C=1C=C(C=CC1)C)=O | C19H18N2O4
reactant | isopropylamine | C(C)(C)N | C3H9N
product | N-Isopropyl-6-(5-methyl-3-m-tolyl-isoxazol-4-ylmethoxy)-nicotinamide | 160 mg, 74% | C(C)(C)NC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C=1C=C(C=CC1)C)=O | C21H23N3O3
